US04707483
7-Bromo-8-methoxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine (9.6 g, 0.03 m), 37% formalin (27 ml) and 95% formic acid (38 ml) were mixed and heated to reflux for 16 hours. The mixture was concentrated in vacuo, treated with 10% hydrochloric acid (70 ml) and concentrated in vacuo. The residue was partitioned between ethyl acetate and ammonium hydroxide to give 7-bromo8-methoxy-3-methyl-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine.

reactant | 7-Bromo-8-methoxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 9.6 g | BrC1=CC2=C(C(CNCC2)C2=CC=CC=C2)C=C1OC | C17H18BrNO
reactant | formalin | 27 ml | C=O | CH2O
solvent | formic acid | 38 ml | C(=O)O | CH2O2
product | 7-bromo8-methoxy-3-methyl-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | BrC1=CC2=C(C(CN(CC2)C)C2=CC=CC=C2)C=C1OC | C18H20BrNO
